US04366329
A mixture consisting of 53% of meta bromophenol and 47% of para bromophenol (30.15 g, 0.174 mol) was dissolved in 150 ml of 50% sodium hydroxide and 30 ml of water and cooled to 25° C., whereupon a white solid precipitated. The white solid was filtered and slurried with 20 ml of 50% sodium hydroxide and 5 ml of water. The white solid was then crystallized again in a similar manner and methylated with an excess of dimethylsulfate and sodium hydroxide to yield 9.72 g (30%) of meta bromoanisole after distillation, containing less than 2% of the para isomer.

reactant | meta bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | para bromophenol | 0.174 mol, 30.15 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | water | 30 ml | O | H2O
solvent | sodium hydroxide | 150 ml | [OH-].[Na+]
product | meta bromoanisole | 9.72 g, 30% | BrC=1C=C(C=CC1)OC | C7H7BrO
